US04434175
4-Cyanothio-2-methoxycarbonyl-1-methylpyrrole (2.8 g, 14.3 mmol) is dissolved in 50 ml of methanol under nitrogen. Methyliodide (1.25 ml, 20 mmol) is added followed by 1.08 g (20 mmole) of sodium methoxide. After stirring for about 30 minutes at room temperature, the reaction mixture is concentrated to a paste and then diluted with 100 ml of ethylether. The resulting precipitate is filtered off and the filtrate concentrated to give an oil which is distilled at 100° to 104° at 0.25 mm-Hg to afford 2.2 g (86%) of 2-methoxycarbonyl-4-methylthio-1-methylpyrrole.

reactant | 4-Cyanothio-2-methoxycarbonyl-1-methylpyrrole | 14.3 mmol, 2.8 g | C(#N)SC=1C=C(N(C1)C)C(=O)OC | C8H8N2O2S
reactant | Methyliodide | 20 mmol, 1.25 ml | CI | CH3I
reactant | sodium methoxide | 20 mmole, 1.08 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-methoxycarbonyl-4-methylthio-1-methylpyrrole | 2.2 g, 86% | COC(=O)C=1N(C=C(C1)SC)C | C8H11NO2S
